US07947841B2
2-Bromo-1-(3-methoxy-pyridin-2-yl)-ethanone
Add N-bromo-succinimide (306 mg, 1.7 mmol) to a stirred solution of 2-(1-ethoxy-vinyl)-3-methoxy-pyridine (305 mg, 1.7 mg) in THF (30 mL) and water (2 mL). Stir for 15 mins. at RT under N2. Adsorb on SiO2 and purify by flash chromatography on silica gel eluting with 0-40% EtOAc/hexanes to afford the title compound (211 mg, 54%).

reactant | N-bromo-succinimide | 1.7 mmol, 306 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-(1-ethoxy-vinyl)-3-methoxy-pyridine | 305 mg | C(C)OC(=C)C1=NC=CC=C1OC | C10H13NO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 2-Bromo-1-(3-methoxy-pyridin-2-yl)-ethanone | 211 mg, 54% | BrCC(=O)C1=NC=CC=C1OC | C8H8BrNO2
